US06313127B1
To a stirred solution of piperazine (10.8 g) in dry dichloromethane (160 ml) and triethylamine (20 ml) at 0° C. was added slowly a solution of 4-bromobenzenesulphonyl chloride (16 g) in dichloromethane (80 ml) and stirred for 24 hours. The reaction was then quenched by removal of the dichloromethane solvent by evaporation, taken up in water and extracted with ethyl acetate. The organic extracts were washed with aqueous sodium hydrogen carbonate solution, water, brine, dried (MgSO4) and then evaporated to give a white crystalline solid which was recrystallised from ethyl acetate/isohexane to afford 1-(4-bromophenylsulphonyl)piperazine (14.1 g) as a solid, m.p. 102-104° C.; microanalysis found: C, 39.5; H, 4.4; N, 9.1%: C10H13BrN2O2S requires: C, 39.4; H, 4.3; N, 9.2%; NMR (CDCl3): 1.52(s,1H), 2.97(dt,8H), 7.61(d,2H), 7.69(d,2H): MS m/z 305 (MH)+.

reactant | piperazine | 10.8 g | N1CCNCC1 | C4H10N2
reactant | 4-bromobenzenesulphonyl chloride | 16 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | dichloromethane | 160 ml | ClCCl | CH2Cl2
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 1-(4-bromophenylsulphonyl)piperazine | 14.1 g | BrC1=CC=C(C=C1)S(=O)(=O)N1CCNCC1 | C10H13BrN2O2S
